US04775680
2-Fluoro-5-(p-methylsulfonylbenzyl)-5,6,7,8,9,10-hexahydrocyclohept[b]indole-6-acetic acid
Following the procedure of Example 1, but using ethyl 2-oxo-cycloheptaneacetate and 1-(p-methylsulfonylbenzyl)-1-(p-fluorophenyl)hydrazine hydrochloride as starting materials, the title compound is obtained.

reactant | ethyl 2-oxo-cycloheptaneacetate | O=C1C(CCCCC1)CC(=O)OCC | C11H18O3
reactant | 1-(p-methylsulfonylbenzyl)-1-(p-fluorophenyl)hydrazine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(CN(N)C2=CC=C(C=C2)F)C=C1
product | 2-Fluoro-5-(p-methylsulfonylbenzyl)-5,6,7,8,9,10-hexahydrocyclohept[b]indole-6-acetic acid | FC=1C=C2C3=C(N(C2=CC1)CC1=CC=C(C=C1)S(=O)(=O)C)C(CCCC3)CC(=O)O | C23H24FNO4S
